US05177075
(R)-3,4-Dihydro-5-(2-oxiranylmethoxy)-1(2H)-isoquinolinone
A mixture of 2.0 g (12.3 mmol) of 3,4-dihydro-5-hydroxy-1(2H)-isoquinolinone, 3.3 g (14.7 mmol) of (R)-glycidal tosylate and 2.03 g (14.7 mmol) of potassium carbonate in 100 ml of ethanol were refluxed until complete (as indicated by TLC). The reaction mixture was concentrated and partitioned between ethyl acetate and water. The organic layer was dried and concentrated. The desired product, (R)-3,4-dihydro-5-(2-oxiranylmethoxy)-1(2H)-isoquinolinone, was obtained by chromatography; mp 161°-64° (Rotation=+12.5°).

reactant | 3,4-dihydro-5-hydroxy-1(2H)-isoquinolinone | 12.3 mmol, 2.0 g | OC1=C2CCNC(C2=CC=C1)=O | C9H9NO2
reactant | potassium carbonate | 14.7 mmol, 2.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | (R)-3,4-dihydro-5-(2-oxiranylmethoxy)-1(2H)-isoquinolinone | O1[C@H](C1)COC1=C2CCNC(C2=CC=C1)=O | C12H13NO3
